Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-1.82874730781
[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.41053385569
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][H:5],2.1076110261000003
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],5.491658586209999
[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],1.10407925494
[C:3][H:4].[H:1][C:2]([H:5])=[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],-1.88297671112
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13],-1.81014195513
[H:10].[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.152283124669999
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[H:1][C:3],7.32535878722
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.92323659869
[H:10].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.8758370976700005
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]#[C:4][H:5]>>[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.02956397439
[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][C:11]([H:12])([H:13])[H:14],4.30324045327
[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[C:5]=[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][C:4][O:9][H:10],5.19290692945
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16],-4.49858514143
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.48505674537
[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-1.77212913448
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.37047163251
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][C:4]([H:5])=[O:6]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10],-2.17336935549
[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.79534844549
[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-5.837399731980001
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9].[H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-4.00438026444
[O:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:8][H:9]>>[C:2]([H:3])([H:4])=[C:5]=[C:6]([H:7])[O:8][H:9].[O:1],1.35152672167
[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:5],1.59595017284
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[H:1],3.94891110154
[H:12].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.62159487138
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][O:4][O:5]>>[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[H:9],-3.26737630458
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.37150842591
